US07635701B2
To a solution of benzyl 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylate (0.50 g) in ethanol (15 ml) was added a solution of potassium hydroxide (205 mg) in ethanol (10 ml) and the solution stirred at reflux for 15 h. Ethanol was removed under reduced pressure and water (15 ml) added. The solution was washed with ether and concentrated hydrochloric acid added to adjust the acidity to pH 1. The precipitated solid was filtered, washed with water and dried in vacuo at 50° C. to afford 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid (366 mg).

reactant | benzyl 2-(3-chlorophenylamino)-4-trifluoromethyl-pyrimidine-5-carboxylate | 0.50 g | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C19H13ClF3N3O2
reactant | potassium hydroxide | 205 mg | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid | 366 mg | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H7ClF3N3O2
